US09388176B2
Methyl-4-methyl-3-[2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]benzoate
A mixture of 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine (100 mg, 0.552 mmol), methyl-3-bromo-4-methylbenzoate (126 mg, 0.552 mmol), palladium(II)acetate (12.4 mg, 0.0552 mmol), rac-BINAP (34.4 mg, 0.0552 mmol), and cesium carbonate (252 mg, 0.773 mmol) in toluene (10 ml) was heated at 100° C. for 18 hours. Upon cooling, the reaction mixture was diluted with ethyl acetate and the insolubles were filtered off (celite). The filtrate was concentrated and the residue was eluted through a flash column (silica gel 60, 230-400 mesh, 4:1 hexanes:EtOAc to 7:3 hexanes:EtOAc) to obtain the title compound as a light yellow, viscous oil which crystallized on standing (143 mg, 79%).

reactant | 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 0.552 mmol, 100 mg | CSC=1N=CC2=C(N1)CCNC2 | C8H11N3S
reactant | methyl-3-bromo-4-methylbenzoate | 0.552 mmol, 126 mg | COC(C1=CC(=C(C=C1)C)Br)=O | C9H9BrO2
reactant | rac-BINAP | 0.0552 mmol, 34.4 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.773 mmol, 252 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II)acetate | 0.0552 mmol, 12.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl-4-methyl-3-[2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]benzoate | COC(C1=CC(=C(C=C1)C)N1CC2=C(N=C(N=C2)SC)CC1)=O | C17H19N3O2S
